US08877782B2
N-(2-Hydroxy-1-hydroxymethyl-ethyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 191, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (200 mg, 0.65 mmol) was converted, using 2-amino-1,3-propandiol instead of 2-aminoethyl isopropylether, to the title compound (215 mg, 87%) which was obtained as a colourless oil. MS: m/e=384.0 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.65 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | 2-amino-1,3-propandiol | NC(CO)CO | C3H9NO2
product | N-(2-Hydroxy-1-hydroxymethyl-ethyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide | 215 mg, 87% | OCC(CO)NC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C20H21N3O5
